2193-05-05 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Received 2 units FFP prior to LP. Multiple attempts made but able to
   draw back only blood twice. Hct stable with improved INR. Received
   add'l 3 units FFP. Frequent neuro checks due to concern for epidural
   hematoma with preservation of downgoing toes on Babinski, reflexes, and
   withdrawal to pain.
   - Pt sedation changed to versed/fent boluses -> propofol gtt with
   fentanyl boluses
   - Started tube feeds
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-5-5**] 03:59 AM
   Vancomycin - [**2193-5-5**] 04:20 AM
   Acyclovir - [**2193-5-5**] 06:43 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2193-5-4**] 07:30 PM
   Fentanyl - [**2193-5-5**] 12:28 AM
   Famotidine (Pepcid) - [**2193-5-5**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-5-5**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 89 (87 - 113) bpm
   BP: 108/67(81) {92/57(69) - 163/88(112)} mmHg
   RR: 23 (13 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 19 (9 - 308)mmHg
   Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                 12,284 mL
                                                                  1,397 mL
   PO:
   TF:
                                                                    233 mL
                                                                    308 mL
   IVF:
                                                                  5,954 mL
                                                                  1,088 mL
   Blood products:
                                                                  2,037 mL
   Total out:
                                                                  2,570 mL
                                                                  1,070 mL
   Urine:
                                                                  2,570 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,714 mL
                                                                    327 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 23
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 39 cmH2O
   Plateau: 29 cmH2O
   Compliance: 23.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/38/89.[**Numeric Identifier 126**]/26/3
   Ve: 12.6 L/min
   PaO2 / FiO2: 178
   Physical Examination
   General Appearance: intubated
   Eyes / Conjunctiva: PERRL, but L pupil a little sluggish
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: S1 S2 nl
   Respiratory / Chest: Bronchial BS
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No edema b/l
   Skin:  Diffuse, fine, blanching, erythematous, macular rash over arms
   and legs sparing soles
   Neurologic: Toes upgoing on babinski, withdraws to pain
   Labs / Radiology
   103 K/uL
   9.3 g/dL
   100 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.5 mEq/L
   13 mg/dL
   106 mEq/L
   137 mEq/L
   26.4 %
   2.8 K/uL
        [image002.gif]
                             [**2193-5-3**]  09:18 PM
                             [**2193-5-4**]  01:34 AM
                             [**2193-5-4**]  01:38 AM
                             [**2193-5-4**]  02:55 AM
                             [**2193-5-4**]  04:38 AM
                             [**2193-5-4**]  06:02 AM
                             [**2193-5-4**]  06:44 PM
                             [**2193-5-5**]  02:00 AM
                             [**2193-5-5**]  02:24 AM
                             [**2193-5-5**]  03:23 AM
   WBC
   12.0
   9.2
   2.3
   2.8
   Hct
   39
   30.2
   36
   30.6
   26.3
   24.8
   26.4
   Plt
   [**Telephone/Fax (3) 8041**]03
   Cr
   1.1
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   22
   20
   21
   28
   Glucose
   179
   159
   100
   Other labs: PT / PTT / INR:19.8/32.7/1.9, CK / CKMB /
   Troponin-T:498/4/<0.01, ALT / AST:30/33, Alk Phos / T Bili:81/0.5,
   Amylase / Lipase:/28, Differential-Neuts:67.1 %, Lymph:18.5 %, Mono:3.7
   %, Eos:10.6 %, Fibrinogen:451 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:3.2 g/dL, LDH:245 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Assessment and Plan
   48M h/o seizure disorder, recently started on bactrim for lower
   extremity cellulitis, transfered from OSH with fever, seizure,
   hypotension, and diffuse erythematous rash.
   .
   # hypotension - infectious vs distributive etiology most likely.  no
   evidence of bleeding.  he did have fever to 103.5 at OSH, though no
   clear source thus far (OSH CXR nl, UA unremarkable).  LFTs and
   abdominal exam normal.  Given CVP 17-18 after 4L @ OSH and 2-3L here,
   concerning for distributive etiology, particularly in setting of
   diffuse erythematous rash.  will proceed as follows:
   - check CXR, UA, UCx, BCx.
   - plan for LP, will need to reverse with 2-3 UNITS FFP, and repeat INR,
   so will treat with empiric antibiotics (CTX, vanco, acyclovir) until
   then given febrile seizure.
   - continue IVF hydration, switch to LR, for goal CVP>[**11-11**].
   - start levophed gtt if MAP<65 despite CVP>[**11-11**].
   - continue H1 and H2 blockade x 24-48hrs given concern for anaphalactic
   reaction to bactrim.
   .
   # Pancytopenia: concerning for infectious process, but may be drug
   induced. Possible sources include Pna, meningitis, LLE cellulitis.
   Could not get LP yesterday despite multiple attempts.  [**Month (only) 51**] also be due
   to Bactrim, dilantin.
   - stop bactrim
   - change to keppra and d/c dilantin
   - Will not attempt LP today due to fluid overload (would need FFP prior
   to LP)
   - continue current Abx
   - continue to trend blood counts and consider Heme/Onc consult
   .
   # respiratory failure - acute decompensation in airway [**12-31**] agitation,
   then treated with haldol/ativan causing relaxation of airway protection
   in the setting of tongue edema.  CXR also consistent with volume
   overload [**12-31**] aggressive fluid repletion, with likely component of
   distributive vasodilation.
   - pt intubated semi-emergently.
   - continue AC 50% 500 19  5 (7.26/43/78).
   - fentanyl/versed gtt.
   - Diuresis with 20mg lasix x1 with lasix gtt for goal 1.5 to 2 L neg.
   - monitor UOP closely.
   .
   # agitation - at baseline, pt with "3rd grade education", now s/p
   febrile seizure, likely some component of confusion, with poor mental
   reserve, exacerbated by possible infection.
   - workup infection as above.
   - add-on tox screen.
   - prn haldol and ativan for agitation.
   .
   # seizure - s/p febrile seizure today, s/p phosphenytoin load at OSH.
   - obtain records of seizure history.
   - neurology consult placed, appreciate recs.
   - check phenytoin level in AM.
   - continue dilantin -> iv dosing 200mg po bid.
   - check tox screen.
   - f/u final OSH CT HEAD [**Location (un) **].
   - infectious workup as above.
   .
   # hypothyroid - convert synthroid to IV (250 po -> 100 mcg iv).
   .
   # ARF - likely pre-renal given insensible losses.  cre 2.1 @ OSH, now
   1.5 after 4L IVF (per report).  ddx also includes rhabdo s/p seizure
   (CK 1116), AIN given recent abx, ATN [**12-31**] hypotension.  currently making
   urine (400cc in foley upon arrival).
   - check UA for myoglobin, urine lytes, eos.
   - continue fluid repletion cautiously (CVP=18 presently), use LR.
   - GAP = 11.
   .
   # supratherapeutic INR - on coumadin for h/o DVT. elevation maybe [**12-31**]
   abx.
   - hold coumadin.
   - guaic stools.
   - 2-3U FFP as above for LP, repeat INR in AM.
   .
   # FEN: NPO for now.
   # PPX: supratherapeutic INR.
   # Access: L subclavian TLC, a-line, PIVx1.
   # Code: FULL (confirmed with mother)
   # Communication: mother, [**First Name8 (NamePattern2) **] [**Known lastname 8014**] [**Telephone/Fax (1) 8015**],
   # Disposition: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2193-5-4**] 12:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-5-3**] 09:26 PM
   Arterial Line - [**2193-5-4**] 01:46 AM
   20 Gauge - [**2193-5-4**] 03:09 AM
   Multi Lumen - [**2193-5-4**] 05:55 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: H2B
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2193-05-05 10:15:00 Physician Attending Progress Note
Chief Complaint: Seizure
   Respiratory Failure
   Fever
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 URINE CULTURE - At [**2193-5-4**] 09:30 AM
 MULTI LUMEN - STOP [**2193-5-4**] 04:30 PM
 LUMBAR PUNCTURE - At [**2193-5-4**] 05:30 PM
   -LP attempted and unable to obtain fluid and complicated by bleeding x2
   and procedure unable to be completed.  Neuro exam across time without
   changes in lower extremity function.
   -Recurrent fever to 100.8
   -Significant fall in WBC count with 10% eos noted.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Last dose of Antibiotics:
   Ceftriaxone - [**2193-5-5**] 03:59 AM
   Vancomycin - [**2193-5-5**] 04:20 AM
   Acyclovir - [**2193-5-5**] 06:43 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2193-5-4**] 07:30 PM
   Fentanyl - [**2193-5-5**] 12:28 AM
   Famotidine (Pepcid) - [**2193-5-5**] 03:50 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2193-5-5**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.7
C (99.8
   HR: 96 (87 - 113) bpm
   BP: 99/59(71) {92/57(69) - 163/88(112)} mmHg
   RR: 23 (13 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
   CVP: 17 (13 - 308)mmHg
   Total In:
                                                                 12,284 mL
                                                                  1,615 mL
   PO:
   TF:
                                                                    233 mL
                                                                    439 mL
   IVF:
                                                                  5,954 mL
                                                                  1,176 mL
   Blood products:
                                                                  2,037 mL
   Total out:
                                                                  2,570 mL
                                                                  1,600 mL
   Urine:
                                                                  2,570 mL
                                                                  1,600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  9,714 mL
                                                                     15 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 23
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 39 cmH2O
   Plateau: 27 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 95%
   ABG: 7.47/38/89.[**Numeric Identifier 126**]/26/3
   Ve: 12.8 L/min
   PaO2 / FiO2: 178
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed, Rash: Diffuse macular rash with resolution
   centrally and with persistent findings periphrally
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed, Toes downgoing, withdraw to pain
   Labs / Radiology
   9.3 g/dL
   103 K/uL
   100 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.5 mEq/L
   13 mg/dL
   106 mEq/L
   137 mEq/L
   26.4 %
   2.8 K/uL
        [image002.jpg]
                             [**2193-5-3**]  09:18 PM
                             [**2193-5-4**]  01:34 AM
                             [**2193-5-4**]  01:38 AM
                             [**2193-5-4**]  02:55 AM
                             [**2193-5-4**]  04:38 AM
                             [**2193-5-4**]  06:02 AM
                             [**2193-5-4**]  06:44 PM
                             [**2193-5-5**]  02:00 AM
                             [**2193-5-5**]  02:24 AM
                             [**2193-5-5**]  03:23 AM
   WBC
   12.0
   9.2
   2.3
   2.8
   Hct
   39
   30.2
   36
   30.6
   26.3
   24.8
   26.4
   Plt
   [**Telephone/Fax (3) 8041**]03
   Cr
   1.1
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   22
   20
   21
   28
   Glucose
   179
   159
   100
   Other labs: PT / PTT / INR:19.8/32.7/1.9, CK / CKMB /
   Troponin-T:498/4/<0.01, ALT / AST:30/33, Alk Phos / T Bili:81/0.5,
   Amylase / Lipase:/28, Differential-Neuts:67.1 %, Lymph:18.5 %, Mono:3.7
   %, Eos:10.6 %, Fibrinogen:451 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:3.2 g/dL, LDH:190 IU/L, Ca++:8.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.1
   mg/dL
   Imaging: CXR-Evolution of bilateral peri-hilar alveolar infiltrates
   from [**5-4**] film.  ETT, CVL in good position
   Assessment and Plan
   48 yo male admit with rash and concern for medication reaction
   initially with presentation complicated by seizure and now with
   persistent hypoxemic respiratory failure.
   1)Panocytopenia-Significant drop by 50% at this time in PLTS and
   WBC
this is in the setting of some volume but certainly not enough to
   explain change by any means.  Certainly medication reaction leading to
   marrow suppression seems most likely at this time.
   -Will consider Bactrim most likely but will change anti-seizure
   medications given possible Dilantin toxicity as contributor
   -Will check viral source
Parvovirus leading suspect from viral
   standpoint
   -Heme to consult to aid in expansion of differential and consideration
   of further testing
   -Will check DIC labs and evaluate to make sure that CVL is not heparin
   coated
   2)Respiratory Failure-_This is hypoxemic respiratory failure which now
   is dominated by significant bilateral pulmonary edema.  We have CVP
   elevation to 17 today.  In addition treatment for likely bacterial
   pneumonia is ongoing and in place.
   -Diuresis today
   -Continue SBX
   -Wean PEEP as possible
   -Lasix gtt today to move to diuresis at goal 2-3 liters negative
   3)Rash-Dermatology into evaluate patient and appreciate support in
   evaluation.
   -Benadryl for now
   -Will continue to evaluate with Derm support
   Seizure-
   -Dilantin in place
will change to keppra for reasons noted above.
   -Concern raised for possible CNS infection and LP attempted over the
   course of multiple hours following FFP administration.  This was
   attempted by all members of the ICU team and no CSF was able to be
   obtained despite multiple attempts.
   -At this time today
patient has need for negative fluid balance with
   marked decrease in compliance and significant evolution of pulmonary
   edema and will not be able to correct coag abnormality today without
   worsening pulmonary status.  Given inability of ICU team to obtain CSF
   will need to move to IR based procedure vs. neurology team attempt.
   -CTX/Vanco/Acyclovir
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2193-5-4**] 12:00 PM 50 mL/hour
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-5-3**] 09:26 PM
   Arterial Line - [**2193-5-4**] 01:46 AM
   20 Gauge - [**2193-5-4**] 03:09 AM
   Multi Lumen - [**2193-5-4**] 05:55 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes

2193-05-06 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PAN CULTURE - At [**2193-5-5**] 03:45 PM
   sputum, blood culture x 2 sets and urine sent for temp 101.2
 FEVER - 101.2
F - [**2193-5-5**] 03:00 PM
   - Temp to 101.2, pan cultures were sent
   - IR guided LP scheduled for [**2193-5-6**]
   - Patient was diuresed and put out very well to lasix gtt
   - Heme/Onc was consulted for pancytopenia - they suspect due to Bactrim
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2193-5-6**] 04:02 AM
   Ceftriaxone - [**2193-5-6**] 04:02 AM
   Acyclovir - [**2193-5-6**] 06:37 AM
   Infusions:
   Propofol - 24.9 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2193-5-5**] 11:00 AM
   Fentanyl - [**2193-5-5**] 04:00 PM
   Dilantin - [**2193-5-5**] 08:32 PM
   Famotidine (Pepcid) - [**2193-5-6**] 04:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-5-6**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 36.7
C (98.1
   HR: 89 (83 - 105) bpm
   BP: 111/64(81) {97/54(68) - 167/72(96)} mmHg
   RR: 23 (19 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
    CVP: 16 (9 - 20)mmHg
   Total In:
                                                                  4,074 mL
                                                                  1,249 mL
   PO:
   TF:
                                                                  1,147 mL
                                                                    200 mL
   IVF:
                                                                  2,896 mL
                                                                  1,049 mL
   Blood products:
   Total out:
                                                                  8,270 mL
                                                                  2,510 mL
   Urine:
                                                                  8,270 mL
                                                                  2,510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,196 mL
                                                                 -1,261 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 23
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 30.6 cmH2O/mL
   SpO2: 94%
   ABG: 7.51/35/96.[**Numeric Identifier 181**]/27/4
   Ve: 12.2 L/min
   PaO2 / FiO2: 194
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed, Rash: Diffuse macular rash with resolution
   centrally and with persistent findings periphrally
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed, Toes downgoing, withdraw to pain
   Labs / Radiology
   112 K/uL
   9.6 g/dL
   125 mg/dL
   0.6 mg/dL
   27 mEq/L
   3.8 mEq/L
   10 mg/dL
   106 mEq/L
   141 mEq/L
   26.9 %
   2.9 K/uL
        [image002.jpg]
   CK: 222
   Ca: 9.1 Mg: 1.4 P: 3.5
   PT: 15.0
   PTT: 25.4
   INR: 1.3
                             [**2193-5-4**]  04:38 AM
                             [**2193-5-4**]  06:02 AM
                             [**2193-5-4**]  06:44 PM
                             [**2193-5-5**]  02:00 AM
                             [**2193-5-5**]  02:24 AM
                             [**2193-5-5**]  03:23 AM
                             [**2193-5-5**]  03:22 PM
                             [**2193-5-6**]  12:05 AM
                             [**2193-5-6**]  03:40 AM
                             [**2193-5-6**]  03:41 AM
   WBC
   9.2
   2.3
   2.8
   3.3
   2.9
   Hct
   30.6
   26.3
   24.8
   26.4
   27.2
   27.7
   26.9
   Plt
   182
   103
   103
   101
   112
   Cr
   0.7
   0.7
   0.7
   0.6
   TropT
   <0.01
   TCO2
   21
   28
   29
   Glucose
   100
   125
   Color
   Straw
   Appear
   Clear
   SpecGr
   1.003
   pH
   7.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Neg
   Bld
   Lg
   Nitr
   Neg
   Prot
   Neg
   Glu
   Neg
   Ket
   Neg
   RBC
   [**1-31**]
   WBC
   [**1-31**]
   Bact
   None
   Yeast
   None
   Epi
   0
   Blood culture
 No growth to date
   Urine culture
 No growth to date
   Sputum culture
 No growth to date
   Other labs: PT / PTT / INR:15.0/25.4/1.3, CK / CKMB /
   Troponin-T:222/4/<0.01, ALT / AST:30/33, Alk Phos / T Bili:81/0.5,
   Amylase / Lipase:/28, Differential-Neuts:67.1 %, Lymph:18.5 %, Mono:3.7
   %, Eos:10.6 %, Fibrinogen:451 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:3.2 g/dL, LDH:190 IU/L, Ca++:9.1 mg/dL, Mg++:1.4 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   48M h/o seizure disorder, recently started on bactrim for lower
   extremity cellulitis, transfered from OSH with fever, seizure,
   hypotension, and diffuse erythematous rash.
   .
   # Hypotension: Likely infectious vs distributive.  No evidence of
   bleeding but did have fever to 103.5 at OSH, though no clear source
   thus far (OSH CXR nl, UA unremarkable); empiric tx for bacterial
   meningitis while awaiting LP.  Given CVP 17-18 after 4L @ OSH and 2-3L
   here, concerning for distributive etiology, particularly in setting of
   diffuse erythematous rash.
   - F/u cx.
   - plan for IR-guided LP on Monday; allow coumadin to drift down
   - treat with empiric antibiotics (CTX, vanco, acyclovir) until then
   given febrile seizure.
   - continue IVF hydration, switch to LR, for goal CVP>[**11-11**].
   - start levophed gtt if MAP<65 despite CVP>[**11-11**].
   - continue H1 and H2 blockade x 24-48hrs given concern for anaphylactic
   reaction to bactrim.
   .
   # Pancytopenia: Concerning for infectious process, but may be drug
   induced. Possible sources include parvo, bactrim, dilantin.
   - stop bactrim
   - change to keppra and d/c dilantin
   - Will not attempt LP today due to fluid overload (would need FFP prior
   to LP); plan for IR-guided
   - continue current Abx
   - continue to trend blood counts; Heme/Onc consult
   .
   # respiratory failure: Acute decompensation in airway [**12-31**] agitation,
   then treated with haldol/ativan causing relaxation of airway protection
   in the setting of tongue edema.  CXR also consistent with volume
   overload [**12-31**] aggressive fluid repletion, with likely component of
   distributive vasodilation.
   - pt intubated semi-emergently.
   - continue AC 50% 500 19  5 (7.26/43/78).
   - fentanyl/versed gtt.
   - Diuresis with 20mg lasix x1, then lasix gtt for goal 1.5 to 2 L neg.
   - monitor UOP closely.
   .
   # Agitation: At baseline, pt with "3rd grade education", now s/p
   febrile seizure, likely some component of confusion, with poor mental
   reserve, exacerbated by possible infection.  Tox screens negative
   except benzos on urine (? [**12-31**] benzos in hospital)
   - workup infection as above.
   - prn haldol and ativan for agitation.
   .
   # Seizure: s/p febrile seizure today, s/p phosphenytoin load at OSH.
   - Obtain records of seizure history.
   - Appreciate Neurology consult recs; f/u recs and obtain OSH seizure hx
   records if possible.
   - f/u final OSH CT HEAD [**Location (un) **].
   - infectious workup as above
   .
   # Hypothyroid: Cont IV synthroid but wean as tolerated.
   .
   # ARF - likely pre-renal given insensible losses.  Cr 2.1 @ OSH, now
   1.5 after 4L IVF (per report).  ddx also includes rhabdo s/p seizure
   (CK 1116), AIN given recent abx, ATN [**12-31**] hypotension.  Currently making
   urine (400cc in foley upon arrival).
   - check UA for myoglobin, urine lytes, eos.
   - continue fluid repletion cautiously (CVP=18 presently), use LR.
   - GAP = 11.
   .
   # Elevated - on coumadin for h/o DVT/ CVP, elevation maybe [**12-31**] abx.
   - hold coumadin.
   - guaic stools.=
   .
   # FEN: NPO for now.
   # PPX: supratherapeutic INR.
   # Access: L subclavian TLC, a-line, PIVx1.
   # Code: FULL (confirmed with mother)
   # Communication: mother, [**First Name8 (NamePattern2) **] [**Known lastname 8014**] [**Telephone/Fax (1) 8015**],
   # Disposition: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2193-5-3**] 09:26 PM
   Arterial Line - [**2193-5-4**] 01:46 AM
   20 Gauge - [**2193-5-4**] 03:09 AM
   Multi Lumen - [**2193-5-4**] 05:55 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-05-07 07:37:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - NGT placed by RN, position confirmed
   - Propofol weaned; more awake; RSBI 126
   - PICC placed with plan to pull CVL once fosphenytoin given
   - Continued good diuresis without additional Lasix
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Last dose of Antibiotics:
   Acyclovir - [**2193-5-6**] 10:05 PM
   Ceftriaxone - [**2193-5-7**] 04:25 AM
   Vancomycin - [**2193-5-7**] 06:25 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Dilantin - [**2193-5-7**] 12:00 AM
   Famotidine (Pepcid) - [**2193-5-7**] 04:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-5-7**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 108 (80 - 108) bpm
   BP: 181/94(128) {99/58(72) - 181/98(128)} mmHg
   RR: 30 (18 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
    CVP: 6 (5 - 17)mmHg
   Total In:
                                                                  3,178 mL
                                                                    612 mL
   PO:
   TF:
                                                                    200 mL
   IVF:
                                                                  2,918 mL
                                                                    612 mL
   Blood products:
   Total out:
                                                                  7,430 mL
                                                                  1,070 mL
   Urine:
                                                                  7,430 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,252 mL
                                                                   -458 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   PS : 12 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 126
   PIP: 25 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.45/40/155/28/4
   Ve: 10.1 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: Nl S1-S2
   Respiratory / Chest: Diminished breath sounds diffusely
   Abdominal: Bowel sounds present, soft, not distended
   Skin:  Diffuse maculopapular rash, largely on upper extremities
   Neurologic: Does not respond to commands
   Labs / Radiology
   148 K/uL
   9.8 g/dL
   93 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.6 mEq/L
   9 mg/dL
   105 mEq/L
   142 mEq/L
   27.6 %
   4.1 K/uL
        [image002.jpg]
                             [**2193-5-5**]  02:00 AM
                             [**2193-5-5**]  02:24 AM
                             [**2193-5-5**]  03:23 AM
                             [**2193-5-5**]  03:22 PM
                             [**2193-5-6**]  12:05 AM
                             [**2193-5-6**]  03:40 AM
                             [**2193-5-6**]  03:41 AM
                             [**2193-5-6**]  05:00 PM
                             [**2193-5-7**]  04:44 AM
                             [**2193-5-7**]  06:08 AM
   WBC
   2.3
   2.8
   3.3
   2.9
   4.1
   Hct
   24.8
   26.4
   27.2
   27.7
   26.9
   27.6
   Plt
   103
   103
   101
   112
   148
   Cr
   0.7
   0.7
   0.7
   0.6
   0.6
   TropT
   <0.01
   TCO2
   28
   29
   29
   29
   Glucose
   100
   125
   93
   Other labs: PT / PTT / INR:13.2/21.0/1.1, CK / CKMB /
   Troponin-T:222/4/<0.01, ALT / AST:30/33, Alk Phos / T Bili:81/0.5,
   Amylase / Lipase:/28, Differential-Neuts:67.1 %, Lymph:18.5 %, Mono:3.7
   %, Eos:10.6 %, Fibrinogen:451 mg/dL, Lactic Acid:2.6 mmol/L,
   Albumin:3.2 g/dL, LDH:190 IU/L, Ca++:9.0 mg/dL, Mg++:1.6 mg/dL, PO4:4.4
   mg/dL
   All Cx: NGTD
   Assessment and Plan
   will try to extubate on rounds; discussed with respiratory, will check
   RSBI and consider pressure support
   48M h/o seizure disorder, recently started on Bactrim for lower
   extremity cellulitis, transferred from OSH with fever, seizure,
   hypotension, and diffuse erythematous rash
   Agree with plan to manage likely meningitis with vanco / ctx and
   acyclovir while awaiting culture results. Will transition to PSV and
   try to wake him up. Shock / hypotension has resolved, will hold on
   further diuresis. For seizure, will continue dilantin to level (lower
   dose today) and touch base with neuro team. Pancytopenia likely due to
   bactrim, which has been added to allergy list. Above d/w mother at
   bedside. Remainder of plan as outlined above.
   .
   # Hypotension:  Resolved; off pressors. Sepsis v. distributive in
   setting of ?bactrim allergy (tx
d with steroids and H1 blocker
   initially. Afebrile overnight with LP cell count with elevated prot but
   only 15 WBC; difficult to interpret in setting of abx tx x 48 h.
   - F/u culture data
   - Continue meningitis treatment with CTX, vanco, acyclovir for now
   .
   # Pancytopenia:  Per heme/onc, likely related to Bactrim. Infection
   also likely a contributor.
   - Bactrim held and put on allergy list
   - Continue current Abx
   - Continue to trend blood counts
   - F/u Heme-onc recs
   .
   # Respiratory failure:  Acute decompensation in airway [**12-31**] agitation,
   then treated with haldol/ativan causing relaxation of airway protection
   in the setting of tongue edema.  CXR also consistent with volume
   overload [**12-31**] aggressive fluid repletion, with likely component of
   distributive vasodilation; cont good UO off diuretic. Sedation weaned
   and now transitioned to PS with good ABG but elevated RSBI.
   - This morning with pH 7.51, likely due to contraction alkalosis and
   respiratory alkalosis
   - Cont light sedation with propofol and fentanyl boluses prn; RSBI/PST
   as tolerated
   - Autodiuresing well off of Lasix gtt; will monitor urine output
   closely, and give Lasix as needed for goal UOP 150+cc/hour
   .
   # Agitation:  At baseline, pt with "3rd grade education", now s/p
   febrile seizure, likely some component of confusion, with poor mental
   reserve, exacerbated by possible infection.  Tox screens negative
   except benzos on urine (? [**12-31**] benzos in hospital)
   - workup infection as above.
   - prn haldol and ativan for agitation.
   .
   # Seizure: s/p febrile seizure on admission, s/p phosphenytoin load at
   OSH. Phenytoin level therapeutic today
   - F/u Neurology consult recs
   - infectious workup as above
   - Obtain records of seizure history if possible; f/u final OSH CT HEAD
   [**Location (un) **]
   .
   # Hypothyroid: Cont IV synthroid but transition to po as tolerated.
   .
   # ARF:  Resolved. Was likely pre-renal given insensible losses.  Cr 2.1
   @ OSH, now 1.5 after 4L IVF (per report).  dDx also includes rhabdo s/p
   seizure (CK 1116), AIN given recent abx, ATN [**12-31**] hypotension.
   Currently making urine (400cc in foley upon arrival).
   .
   # H/o DVT: Now s/p LP. Will restart coumadin today for goal INR [**1-1**].
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-5-4**] 01:46 AM
   PICC Line - [**2193-5-6**] 02:30 PM
   Prophylaxis:
   DVT: Restart coumadin today
   Stress ulcer:
   VAP:
   Comments:
   Communication:  mother, [**First Name8 (NamePattern2) **] [**Known lastname 8014**] [**Telephone/Fax (1) 8015**],
   Code status: Full code
   Disposition: ICU

2193-05-08 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Likely retrocardiac pneumonia: sputum cx sent
   - Cont current abx pending cx
   - EEG ordered for ?absence status. Showed mod-severe encephalopathy but
   no sz or focality.
   - Waking up as weaning sedation but now following commands. ?decreased
   withdrawal to pain of left upper thigh per Neuro; consider CT head
   - synthroid changed to po
   - Started on lovenox bridge to coumadin for h/o DVT
   - Restarted on tube feeds
   - Goal to extubate tmrw, ?d/c acyclovir if HSV neg
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Last dose of Antibiotics:
   Vancomycin - [**2193-5-7**] 07:20 PM
   Ceftriaxone - [**2193-5-8**] 04:32 AM
   Acyclovir - [**2193-5-8**] 06:30 AM
   Infusions:
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2193-5-7**] 12:05 PM
   Famotidine (Pepcid) - [**2193-5-8**] 04:32 AM
   Enoxaparin (Lovenox) - [**2193-5-8**] 04:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-5-8**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.2
C (97.1
   HR: 85 (83 - 115) bpm
   BP: 124/73(89) {88/66(79) - 163/98(113)} mmHg
   RR: 20 (20 - 39) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,571 mL
                                                                    608 mL
   PO:
             TF:
                                                                    228 mL
                                                                     88 mL
   IVF:
                                                                  3,343 mL
                                                                    490 mL
   Blood products:
   Total out:
                                                                  3,715 mL
                                                                  1,255 mL
   Urine:
                                                                  3,715 mL
                                                                  1,255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -144 mL
                                                                   -647 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 413 (325 - 640) mL
   PS : 12 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 109
   PIP: 18 cmH2O
   SpO2: 98%
   ABG: 7.45/41/71/32/3
   Ve: 10.8 L/min
   PaO2 / FiO2: 142
   Physical Examination
   GEN: Intubated. Sedated
   HEENT: Anicteric sclera. MMM
   LUNGS: CTAB
   HEART: RRR No M/R/G
   ABD: hypoactive BS. NT/ND
   EXTREM: No edema
   NEURO: Sedated. Withdraws lower extremities to pain.
   Labs / Radiology
   154 K/uL
   10.1 g/dL
   103 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.2 mEq/L
   8 mg/dL
   104 mEq/L
   144 mEq/L
   26.7 %
   3.7 K/uL
        [image002.jpg]
                             [**2193-5-5**]  03:23 AM
                             [**2193-5-5**]  03:22 PM
                             [**2193-5-6**]  12:05 AM
                             [**2193-5-6**]  03:40 AM
                             [**2193-5-6**]  03:41 AM
                             [**2193-5-6**]  05:00 PM
                             [**2193-5-7**]  04:44 AM
                             [**2193-5-7**]  06:08 AM
                             [**2193-5-7**]  09:19 AM
                             [**2193-5-8**]  03:30 AM
   WBC
   2.8
   3.3
   2.9
   4.1
   3.7
   Hct
   26.4
   27.2
   27.7
   26.9
   27.6
   26.7
   Plt
   103
   101
   112
   148
   154
   Cr
   0.7
   0.7
   0.6
   0.6
   0.6
   TCO2
   29
   29
   29
   29
   Glucose
   125
   93
   103
   Other labs: PT / PTT / INR:12.4/24.2/1.0, CK / CKMB /
   Troponin-T:222/4/<0.01, ALT / AST:30/33, Alk Phos / T Bili:81/0.5,
   Amylase / Lipase:/28, Differential-Neuts:67.1 %, Lymph:18.5 %, Mono:3.7
   %, Eos:10.6 %, Fibrinogen:451 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:3.2 g/dL, LDH:190 IU/L, Ca++:8.5 mg/dL, Mg++:1.7 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   48M h/o seizure disorder, recently started on Bactrim for lower
   extremity cellulitis, transferred from OSH with fever, seizure,
   hypotension, and diffuse erythematous rash
   # Meningitis: Low grade temps overnight with LP results c/w partially
   treated meningitis
   - F/u culture data
   - Continue meningitis treatment with CTX, vanco, acyclovir for now.
   - D/C ACV if HSV pcr negative
   # Pancytopenia:  Per heme/onc likely [**12-31**] bactrim. Infection also likely
   a contributor.
   - Bactrim held and put on allergy list
   - Continue current Abx
   - Continue to trend blood counts
   - F/u Heme-onc recs
   # Respiratory failure:  Acute decompensation in airway [**12-31**] agitation,
   then treated with haldol/ativan causing relaxation of airway protection
   in the setting of tongue edema. Sedation weaned and now transitioned to
   PS with good ABG but elevated RSBI.
   - Continue Vanc/CTX, consider better HAP coverage if decompensates.
   - Cont light sedation with propofol and fentanyl boluses prn; RSBI/PST
   as tolerated
   # Agitation:  At baseline, pt with "3rd grade education", now s/p
   febrile seizure, likely some component of confusion, with poor mental
   reserve, exacerbated by possible infection.  Tox screens negative
   except benzos on urine (? [**12-31**] benzos in hospital)
   - workup infection as above.
   - prn haldol and ativan for agitation.
   # Seizure: s/p febrile seizure on admission, s/p phosphenytoin load at
   OSH.
   - Phenytoin level at goal yesterday
   - F/u Neurology consult recs
   - infectious workup as above
   - EEG c/w encephalopathy. No seizures.
   # Hypothyroid: Cte syntroid.
   # H/o DVT: Now s/p LP.
   - lovenox bridge with coumadin. goal INR [**1-1**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-5-4**] 01:46 AM
   PICC Line - [**2193-5-6**] 02:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2193-05-09 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Extubated and did well, post-extubation ABG of 7.46/41/75
   - Still agitated post-extubation, PRN haldol ordered.
   - HSV PCR negative so Acyclovir d/c'd
   - Pulled out NGT at ~8PM.  Switched Levothyroxine and phenytoin to IV
   and ordered Speech and Swallow eval to see if he needs another NGT.
   - Continued lovenox but coumadin on hold for now.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Anaphylaxis;
   Last dose of Antibiotics:
   Acyclovir - [**2193-5-8**] 01:27 PM
   Vancomycin - [**2193-5-8**] 08:00 PM
   Ceftriaxone - [**2193-5-9**] 03:39 AM
   Infusions:
   Other ICU medications:
   Dilantin - [**2193-5-9**] 12:00 AM
   Famotidine (Pepcid) - [**2193-5-9**] 04:04 AM
   Enoxaparin (Lovenox) - [**2193-5-9**] 04:05 AM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Lethargic; still off from baseline per mother which
   is minimal verbalization but able to communicate needs.
   Flowsheet Data as of  [**2193-5-9**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.2
C (97.1
   HR: 83 (79 - 111) bpm
   BP: 128/72(92) {107/59(76) - 171/84(112)} mmHg
   RR: 17 (17 - 36) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  2,332 mL
                                                                    194 mL
   PO:
             TF:
                                                                    173 mL
   IVF:
                                                                  2,069 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                  3,460 mL
                                                                    420 mL
   Urine:
                                                                  3,460 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,128 mL
                                                                   -227 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Physical Examination
   GEN: NAD
   HEENT: Sclera anicteric. MMM
   LUNGS: CTAB
   HEART: RRR No M/R/G
   ABD: Soft. NT/ND
   EXTREM: No edema. Healing ulcer on left lateral foot
   NEURO: Awake, eyes open but lethargic. Not
   Labs / Radiology
   243 K/uL
   10.2 g/dL
   89 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.9 mEq/L
   10 mg/dL
   105 mEq/L
   144 mEq/L
   28.8 %
   4.3 K/uL
        [image002.jpg]
                             [**2193-5-6**]  05:00 PM
                             [**2193-5-7**]  04:44 AM
                             [**2193-5-7**]  06:08 AM
                             [**2193-5-7**]  09:19 AM
                             [**2193-5-8**]  03:30 AM
                             [**2193-5-8**]  10:57 AM
                             [**2193-5-8**]  12:15 PM
                             [**2193-5-8**]  04:37 PM
                             [**2193-5-8**]  08:39 PM
                             [**2193-5-9**]  04:38 AM
   WBC
   4.1
   3.7
   4.3
   Hct
   27.6
   26.7
   28.8
   Plt
   148
   154
   243
   Cr
   0.6
   0.6
   0.5
   TCO2
   29
   29
   29
   32
   33
   30
   33
   Glucose
   93
   103
   89
   Other labs: PT / PTT / INR:13.4/23.8/1.2, CK / CKMB /
   Troponin-T:222/4/<0.01, ALT / AST:30/33, Alk Phos / T Bili:81/0.5,
   Amylase / Lipase:/28, Differential-Neuts:67.1 %, Lymph:18.5 %, Mono:3.7
   %, Eos:10.6 %, Fibrinogen:451 mg/dL, Lactic Acid:0.8 mmol/L,
   Albumin:3.2 g/dL, LDH:190 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:3.1
   mg/dL
   Assessment and Plan
   48M h/o seizure disorder, recently started on Bactrim for lower
   extremity cellulitis, transferred from OSH with fever, seizure,
   hypotension, and diffuse erythematous rash.
   # Meningitis: LP results c/w partially treated meningitis. HSV PCR
   negative and ACV stopped.
   - F/u culture data
   - Continue meningitis treatment with CTX, vanco X 14 days (day #7).
   # AMS:  At baseline, pt with MR and afraid of hospitals. Now s/p
   febrile seizure, likely some component of confusion, infection,
   hospitalization with poor mental reserve.
   - Treat infection as above
   - PT consult to mobilize
   - PRN haldol and ativan for agitation
   # Seizure: Partial seizures per baseline. S/p febrile seizure on
   admission in setting of meningitis, s/p phosphenytoin load at OSH. EEG
   c/w encephalopathy. No seizures.
   - Treating infection as above
   - Phenytoin level at goal (15-20) on [**5-7**], recheck in AM
   - F/u Neurology consult recs
   # Pancytopenia:  Per heme/onc likely [**12-31**] Bactrim. Infection also likely
   a contributor. Resolving over last few days.
   - Bactrim held and put on allergy list
   # H/o DVT: On lovenox but NPO so coumadin being held.
   - Clarify need for anticoagulation with PCP. [**Name10 (NameIs) **] needs, will re-start
   coumadin if passes speech and swallow. Otherwise may require feeding
   tube placement but will likely not tolerate NGT again.
   ICU Care
   Nutrition: NPO; failed speech and swallow [**12-31**] AMS. Will need to
   reassess tmrw.
   Glycemic Control:
   Lines:
   Arterial Line - [**2193-5-4**] 01:46 AM
   PICC Line - [**2193-5-6**] 02:30 PM
   Prophylaxis:  Bowel regimen
   DVT: Lovenox for now
   Stress ulcer: H2 blocker
   Communication:  Comments: With mother.
   [**Name (NI) 36**] status: Full code
   Disposition: PT consult. Call out to floor today.